US07138529B2
Step 1: Preparation of 2-phenylpropionyl chloride
To a stirred solution of 2-phenylpropionic acid (0.36 mL; 2.6 mmol) and a catalytic amount of dry dimethylformamide (ca. 10 μL) in 3.0 mL of dry methylene chloride under nitrogen at room temperature was added oxalyl chloride (0.34 mL; 3.9 mmol) dropwise. After 30 minutes, the mixture was concentrated in vacuo and used immediately for Step 2.

reactant | 2-phenylpropionic acid | 2.6 mmol, 0.36 mL | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | dimethylformamide | ca. 10 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 3.9 mmol, 0.34 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 2-phenylpropionyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C | C9H9ClO
